US06677347B2
A solution of the compound of Example 53, 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine (980 mg, 2.98 mmol) in 20 mL CH2Cl2 was treated with triethylamine (1.04 mL, 7.45 mmol) and chilled in an ice water bath. With vigorous stirring, the solution was treated dropwise with isopropylsulfonyl chloride (0.351 mL, 3.13 mmol). After 18 h, the reaction was treated with 25 mL CH2Cl2 and 25 mL water and the layers were separated. The organic portion was washed with 1% Na2CO3 solution, water, brine, dried over Na2SO4, filtered and concentrated to yield a yellow foam. Purification by column chromatography (SiO2, 90:10:0.5 CHCl3:MeOH:NH4OH) followed by recrystallization from CH2Cl2/hexanes gave 308 mg of N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)propane-2-sulfonamide as a light yellow solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.98 mmol, 980 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C17H23N5O2
reactant | triethylamine | 7.45 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 3.13 mmol, 0.351 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | water | 25 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)propane-2-sulfonamide | 308 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C(C)C)COCC | C20H29N5O4S
